US08530456B2
N-((6-chloropyridin-3-yl)methyl)-2-((2R,6S,E)-5,12-dioxo-2-phenyl-1-oxa-4-azacyclododec-8-en-6-yl)acetamide
To a solution of tert-butyl 2R,6S,E)-5,12-dioxo-2-phenyl-1-oxa-4-azacyclododec-8-en-6-yl)acetate (200 mg, 0.516 mmol) in CH2Cl2 (397 mL) cooled in an ice/water bath was added trifluoroacetic acid (179 μL, 2.32 mmol) and the reaction mixture was stirred 1 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was concentrated and a portion of the crude carboxylic acid was utilized immediately. To a solution of crude 2-((2R,6S,E)-5,12-dioxo-2-phenyl-1-oxa-4-azacyclododec-8-en-6-yl)acetic acid (86 mg, 0.260 mmol) in CH2Cl2 (3.2 mL) cooled in an ice/water bath was added EDC (74.6 mg, 0.389 mmol) and HOBt (52.6 mg, 0.389 mmol) and the resulting solution was stirred 30 min 2-chloro-5-aminomethylpyridine (40.7 mg, 0.285 mmol), iPr2NEt (139 μL, 0.779 mmol) and DMAP (3.2 mg, 0.026 mmol) were subsequently added and the reaction mixture was slowly warmed to rt and stirred for 16 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was diluted with saturated NH4Cl and EtOAc and the layers separated. The aqueous was extracted 2× with EtOAc and the combined organic extracts were washed with 1 N HCl and brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified using silica gel chromatography (MeOH/CH2Cl2 gradient) to yield the desired product as a colorless oil. LRMS (M+H)+: 456.1.

reactant | acetate | 0.516 mmol, 200 mg | C(C)(=O)[O-]
reactant | trifluoroacetic acid | 2.32 mmol, 179 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-((2R,6S,E)-5,12-dioxo-2-phenyl-1-oxa-4-azacyclododec-8-en-6-yl)acetic acid | 0.260 mmol, 86 mg | O=C1NC[C@H](OC(CC/C=C/C[C@H]1CC(=O)O)=O)C1=CC=CC=C1 | C18H21NO5
reactant | EDC | 0.389 mmol, 74.6 mg
reactant | HOBt | 0.389 mmol, 52.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-chloro-5-aminomethylpyridine | 0.285 mmol, 40.7 mg | ClC1=NC=C(C=C1)CN | C6H7ClN2
reactant | iPr2NEt | 0.779 mmol, 139 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 397 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3.2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.026 mmol, 3.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-((6-chloropyridin-3-yl)methyl)-2-((2R,6S,E)-5,12-dioxo-2-phenyl-1-oxa-4-azacyclododec-8-en-6-yl)acetamide | ClC1=CC=C(C=N1)CNC(C[C@H]1C(NC[C@H](OC(CC/C=C/C1)=O)C1=CC=CC=C1)=O)=O | C24H26ClN3O4
